US07407963B2
3,4-dihydro-3-[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]-6-(4-methyl-1-piperazinyl)-2(1H)-quinazolinone
A mixture of 10.0 g (24.372 mmol) of 6-bromo-3,4-dihydro-3-[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]-2(1H)-quinazolinone, 2.5 g (24.96 mol) of 1-methylpiperazine, 4.81 g (50.05 mmol) of sodium tert-butoxide, 285 mg (0.4766 mmol) of bis(dibenzylideneacetone)palladium, 305 mg (1.002 mmol) of tris(o-tolyl)phosphine, and 100 mL of toluene was refluxed for 14 hours. After the addition of further equal amounts of 1-methylpiperazine, sodium tert-butoxide, bis(dibenzylideneacetone)palladium, and tris(o-tolyl)phosphine the mixture was refluxed for another 48 hours. The mixture was filtered through activated charcoal and the filtrate was evaporated down in vacuo. The residue was divided between dichloromethane and water. The organic phase was extracted twice with dilute aqueous citric acid solution. The acidic extracts thus obtained were made alkaline with sodium hydroxide and extracted exhaustively with dichloromethane. The combined dichloromethane extracts were evaporated down in vacuo, the residue was purified by column chromatography on silica gel (30-60 μm) using dichloromethane to start with, then methanol/concentrated ammonia 9/1 v/v as eluant. After conventional working up of the appropriate eluates 1.1 g (11% of theoretical) of a colorless substance was obtained. IR (KBr): 1670 (C═O) cm−1; MS: M+=429.

reactant | 6-bromo-3,4-dihydro-3-[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]-2(1H)-quinazolinone | 24.372 mmol, 10.0 g | BrC=1C=C2CN(C(NC2=CC1)=O)C1CCN(CC1)C(=O)OC(C)(C)C | C18H24BrN3O3
reactant | 1-methylpiperazine | 24.96 mol, 2.5 g | CN1CCNCC1 | C5H12N2
reactant | sodium tert-butoxide | 50.05 mmol, 4.81 g | CC(C)([O-])C.[Na+]
reactant | tris(o-tolyl)phosphine | 1.002 mmol, 305 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | KBr | [K+].[Br-]
catalyst | bis(dibenzylideneacetone)palladium | 0.4766 mmol, 285 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3,4-dihydro-3-[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]-6-(4-methyl-1-piperazinyl)-2(1H)-quinazolinone | CC(C)(OC(=O)N1CCC(CC1)N1C(NC2=CC=C(C=C2C1)N1CCN(CC1)C)=O)C | C23H35N5O3
